US09284333B2
To a solution of 6-((S)-2-methyl-pyrrolidine-1-carbonyl)-3,4-dihydro-1H-pyrrolo[2,1-c][1,4]oxazine-8-carboxylic acid (Comp. No. 7c) (75 mg, 0.270 mmol) in dimethylformamide (2 ml) was added 1-hydroxybenzotriazole (41 mg, 0.30 mmol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (58 mg, 0.30 mmol). The mixture was stirred for 2 h at 50° C., then (R)-1-(5-chloro-6-methoxy-pyridin-3-yl)-propylamine hydrochloride (70 mg, 0.3 mmol) and triethylamine (82 mg, 0.81 mmol) were added and the mixture was stirred at 25° C. overnight. The mixture was filtered through a small filter cartridge and the solution was purified by reverse phase HPLC (acetonitrile/water gradient with 0.1% trifluoroacetic acid) to give 103 mg (83%) of 6-((S)-2-methyl-pyrrolidine-1-carbonyl)-3,4-dihydro-1H-pyrrolo[2,1-c][1,4]oxazine-8-carboxylic acid [(R)-1-(5-chloro-6-methoxy-pyridin-3-yl)-propyl]-amide as white solid. LC/MS (method 2): Rt=1.24 min; m/z=461.12 (M+H+). 1H-NMR: δ (ppm)=8.08 (2H, m), 7.86 (1H, s), 7.19 (1H, s), 4.97 (1H, d), 4.83-4.89 (2H, m), 3.80-4.30 (8H, m), 3.68 (2H, bs), 2.03-2.10 (1H, m), 1.99-1.92 (1H, m), 1.72-1.84 (3H, m), 1.52-1.59 (1H, m), 1.18-1.19 (3H, d), 0.87 (3H, t).

reactant | 6-((S)-2-methyl-pyrrolidine-1-carbonyl)-3,4-dihydro-1H-pyrrolo[2,1-c][1,4]oxazine-8-carboxylic acid | C[C@@H]1N(CCC1)C(=O)C1=CC(=C2COCCN21)C(=O)O | C14H18N2O4
reactant | 1-hydroxybenzotriazole | 0.30 mmol, 41 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.30 mmol, 58 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | (R)-1-(5-chloro-6-methoxy-pyridin-3-yl)-propylamine hydrochloride | 0.3 mmol, 70 mg | Cl.ClC=1C=C(C=NC1OC)[C@@H](CC)N
reactant | triethylamine | 0.81 mmol, 82 mg | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 6-((S)-2-methyl-pyrrolidine-1-carbonyl)-3,4-dihydro-1H-pyrrolo[2,1-c][1,4]oxazine-8-carboxylic acid [(R)-1-(5-chloro-6-methoxy-pyridin-3-yl)-propyl]-amide | 103 mg, 83% | ClC=1C=C(C=NC1OC)[C@@H](CC)NC(=O)C=1C=C(N2C1COCC2)C(=O)N2[C@H](CCC2)C | C23H29ClN4O4
